US05693658
Preparation of Methyl 6-[5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoate
A stirred solution of 7-ethyl-2-isopropyl-2-methyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H),5-dione (7.25 g, 26.75 mmol) in anhydrous N,N-dimethylformamide is treated successively with methyl 6-aminocaproate hydrochloride (5.10 g, 28.1 mmol) and triethylamine (3.00 g, 29.6 mmol). The resulting mixture is stirred at room temperature under nitrogen for 20.5 hours. After this period, the reaction mixture is partitioned between water and ethyl acetate. The layers are separated, and the organic layer is washed with water, dried over magnesium sulfate and vacuum filtered through diatomaceous earth. The filtrate is concentrated in vacuo to obtain a white solid. The solid is triturated with 1:1 ether/petroleum ether to give the title product as a white solid (7.40 g, 69%, mp 101°-103° C.).

reactant | 7-ethyl-2-isopropyl-2-methyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H),5-dione | 26.75 mmol, 7.25 g | C(C)C=1C=C2C(=NC1)C=1N(C2=O)C(C(N1)(C)C(C)C)=O | C15H17N3O2
reactant | methyl 6-aminocaproate hydrochloride | 28.1 mmol, 5.10 g | Cl.NCCCCCC(=O)OC
reactant | triethylamine | 29.6 mmol, 3.00 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 6-[5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoate | 7.40 g, 69% | C(C)C=1C=NC(=C(C(=O)NCCCCCC(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C22H32N4O4
